US05300674
p-Aminophenylalanine methyl ester
To a stirred solution of p-aminophenylalanine (2.05 g, 9.9 mmol) in methanol (100ml) at 0° C. was added thionyl chloride (20ml) dropwise. Upon complete addition the reaction mixture was heated under reflux. After 24 hours the reaction mixture was cooled and reduced under pressure to give a brown oil. The brown oil was taken up in ethyl acetate (200 ml) and washed with saturated sodium bicarbonate solution (200 ml). The aqueous layer was further extracted with ethyl acetate (5×200 ml) . The combined organic layer was dried over MgSO4 and reduced under pressure to yield the title compound as a brown solid (1.7 g, 88.5%).

reactant | p-aminophenylalanine | 9.9 mmol, 2.05 g | NC1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H12N2O2
reactant | thionyl chloride | 20ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 100ml | CO | CH4O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | p-Aminophenylalanine methyl ester | 1.7 g, 88.5% | COC([C@@H](N)CC1=CC=C(C=C1)N)=O | C10H14N2O2
